US05616586
To a suspension of lithium aluminum hydride (1.12 g, 29.5 mmol) in THF (10 mL) was added dropwise 2-methyl-N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline (8.88 g, 29.5 mmol) in THF (90 mL) over 25 min, while the reaction temperature was maintained at 40°~45° C. The mixture was heated at 60° C. for 1 h and the excess reagent was decomposed by slow addition of aqueous THF at 0° C. Aqueous sodium hydroxide was added and stirred for 30 min followed by addition of diethyl ether. The organic layer was separated, washed with brine three times, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 3:1 hexane/ethyl acetate to give 4.97 g of 2-hydroxymethyl-2-methyltetrahydroquinoline (95%): 1H NMR (270 MHz, CDCl3) δ6.98 (m, 2H), 6.64 (td, 1H, J=7.3, 1 Hz), 3.73 (bs, 1H), 3.47 (s, 2H), 2.76 (m, 2H), 1.93 (bs, 1H), 1.86 (m, 1H), 1.61 (m, 1H), 1.19 (s, 3H).

reactant | lithium aluminum hydride | 29.5 mmol, 1.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methyl-N-trifluoroacetyl-2-methoxycarbonyltetrahydroquinoline | 29.5 mmol, 8.88 g | CC1(N(C2=CC=CCC2CC1)C(C(F)(F)F)=O)C(=O)OC | C14H16F3NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-hydroxymethyl-2-methyltetrahydroquinoline | 4.97 g, 95% | OCC1(NC2=CC=CCC2CC1)C | C11H17NO
